US05747540
To a solution of 2-bromo-5-phenoxyphenol (0.38 g, 1.4 mmol) in 6 ml acetone was added K2CO3 (0.58 g, 4.2 mmol) and iodomethane (0.26 ml, 4.2 mmol). The-reaction mixture was heated to reflux for 8 h, cooled to ambient temperature and filtered. The solvent was removed under reduced pressure and the residue was taken up in EtOAc. The organic phase was washed with 1N NaOH, water and brine. Drying over Na2SO4 afforded 0.36 g (92%) of 2-methoxy-4-phenoxybromobenzene.

reactant | 2-bromo-5-phenoxyphenol | 1.4 mmol, 0.38 g | BrC1=C(C=C(C=C1)OC1=CC=CC=C1)O | C12H9BrO2
reactant | K2CO3 | 4.2 mmol, 0.58 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 4.2 mmol, 0.26 ml | IC | CH3I
solvent | acetone | 6 ml | CC(=O)C | C3H6O
product | 2-methoxy-4-phenoxybromobenzene | 0.36 g, 92% | COC1=C(C=CC(=C1)OC1=CC=CC=C1)Br | C13H11BrO2
